US08357693B2
2-(3-fluoro-4-(phenyl)phenyl)-N-(1H-indazol-5-yl)-7-methoxy-6-(2-(pyrrolidin-1-yl)ethoxy)quinazolin-4-amine
A mixture of 5-(6-(2-chloroethoxy)-2-(3-fluoro-4-(phenyl)phenyl)-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.200 g, 0.31 mmol) and pyrrolidine (0.385 g, 5.41 mmol) in DMSO (1.5 mL) was heated at 75° C. for 1.5 h. The mixture was allowed to cool to RT, upon which it was poured into water (100 mL). The solid that formed was collected via filtration and purified by preparative TLC (SiO2, CH2Cl2:MeOH 9:1) to give the desired compound 2-(3-fluoro-4-(phenyl)phenyl)-N-(1H-indazol-5-yl)-7-methoxy-6-(2-(pyrrolidin-1-yl)ethoxy)quinazolin-4-amine (0.15 g, 0.261 mmol, 84%). MS 575.4 (M+1) HPLC retention time 5.40 mins.

reactant | 5-(6-(2-chloroethoxy)-2-(3-fluoro-4-(phenyl)phenyl)-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.31 mmol, 0.200 g | ClCCOC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=C(C=C1)C1=CC=CC=C1)F)NC=1C=C2C=NN(C2=CC1)C(=O)[O-]
reactant | pyrrolidine | 5.41 mmol, 0.385 g | N1CCCC1 | C4H9N
reactant | water | 100 mL | O | H2O
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | 2-(3-fluoro-4-(phenyl)phenyl)-N-(1H-indazol-5-yl)-7-methoxy-6-(2-(pyrrolidin-1-yl)ethoxy)quinazolin-4-amine | 0.261 mmol, 0.15 g, 84% | FC=1C=C(C=CC1C1=CC=CC=C1)C1=NC2=CC(=C(C=C2C(=N1)NC=1C=C2C=NNC2=CC1)OCCN1CCCC1)OC | C34H31FN6O2
